US06969766B2
N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-[(thymin-1-yl)-acetyl]-glycine
N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-[(thymin-1-yl)-acetyl]-glycine ethyl ester (5.10 g, 10 mmol) was suspended in tetrahydrofuran (20 mL) and the solution of lithium hydroxide monohydrate (1.03 g, 25 mmol) in water (20 mL) was added. The reaction mixture was stirred for 1 h. at ambient temperature. The aqueous solution was acidified by the dropwise addition of 1N HCl at 0° C. The title compound was extracted with ethyl acetate (3×10 mL), the combined extracts were dried over magnesium sulfate and filtered. The filtrate was evaporated to dryness in vacuo to afford the desired product (4.57 g, 95%). 1H NMR (500 MHz; DMSO-d6) δ 11.30 (s, 0.6H), 11.28 (s, 0.4H), 8.88 (s, 0.6H), 8.77 (s, 0.4H), 8.27 (d, 1H), 8.18 (d, 1H), 7.69˜7.64 (m, 2H), 7.31 (s, 0.6H), 7.23 (s, 0.4H), 4.64 (s, 1.2H), 4.45 (s, 0.8H), 4.21 (s, 0.8H), 3.98 (s, 1.2H), 3.52 (t, 1.2H), 3.38 (s, 2H), 3.21 (t, 0.8H), 1.73 (s, 3H).

reactant | N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-[(thymin-1-yl)-acetyl]-glycine ethyl ester | 10 mmol, 5.10 g | C(C)OC(CN(C(CN1C(=O)NC(=O)C(C)=C1)=O)CCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C20H23N5O7S2
reactant | lithium hydroxide monohydrate | 25 mmol, 1.03 g | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-[(thymin-1-yl)-acetyl]-glycine | 4.57 g, 95% | S1C(=NC2=C1C=CC=C2)S(=O)(=O)NCCN(CC(=O)O)C(CN2C(=O)NC(=O)C(C)=C2)=O | C18H19N5O7S2
